US04265812
Preparation of N-(2-Sodiosulfoethyl)-sulfonylethyl-N-ethyl-m-toluidine
N-(2-vinylsulfonylethyl-N-ethyl-m-toluidine (25.3 g, 0.1 m) in water solution (100 ml) is stirred with sodium bisulfite (11.0 g, 0.1 m). The reaction is heated to reflux and held for 15 min. The clear solution is drowned into ethanol (200 ml) and allowed to cool. The white solid is collected by filtration, air dried and melts at 237°-240° C.

reactant | 2-vinylsulfonylethyl-N-ethyl-m-toluidine | 25.3 g | C(=C)S(=O)(=O)CCN(C1=CC(=CC=C1)C)CC | C13H19NO2S
reactant | sodium bisulfite | 11.0 g | S([O-])(O)=O.[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | water | 100 ml | O | H2O
product | N-(2-Sodiosulfoethyl)-sulfonylethyl-N-ethyl-m-toluidine | [Na]C(CN(C1=C(C(=CC=C1)C)CC=S(=O)=O)CC)S(=O)(=O)O | InChI=1S/C13H18NO5S2.Na/c1-3-14(8-10-21(17,18)19)13-6-4-5-11(2)12(13)7-9-20(15)16;/h4-6,9-10H,3,7-8H2,1-2H3,(H,17,18,19);
